US05162325
Step F: 2-Butyl-6-methyl-3-[[4-[3-(1H-tetrazol-5-yl)-4-pyridinyl]phenyl]methyl]quinazolin-4(3H)-one.
A solution of 2-butyl-6-methyl-3-[[4-(3-cyanopyridin-4-yl)phenyl]methyl]quinazolin-4(1H)-one (1.0 eq.) and trimethylstannylazide (3 eq.) in toluene is heated to reflux for 4 days. The mixture is cooled to rt, concentrated, then purified by flash chromatography on SiO2 to give the titled compound.

reactant | 2-butyl-6-methyl-3-[[4-(3-cyanopyridin-4-yl)phenyl]methyl]quinazolin-4(1H)-one | 1.0 eq. | C(CCC)C1NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=NC=C1)C#N)=O)C | C26H26N4O
reactant | trimethylstannylazide | 3 eq. | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Butyl-6-methyl-3-[[4-[3-(1H-tetrazol-5-yl)-4-pyridinyl]phenyl]methyl]quinazolin-4(3H)-one | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=NC=C1)C1=NN=NN1)=O)C | C26H25N7O
